### PR TITLE
feat(Topology/Algebra): continuity of composing by a `ContinuousAffineMap`

### PR DESCRIPTION
**Pull request by gasparattila**
This allows upgrading `signedDist` to a `ContinuousAffineMap`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by gasparattila** [comment]
t-topology

File: Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean [hunk 1]
```diff
@@ -81,6 +82,23 @@ instance : RegularSpace (P →ᴬ[R] Q) :=
...
+    ((g.contLinear.precomp W₂).continuous.comp continuous_contLinear)
+
+@[fun_prop]
+theorem continuous_postcomp (f : Q →ᴬ[R] Q₂) [ContinuousConstSMul R W] [ContinuousConstSMul R W₂] :
+    Continuous (fun g : P →ᴬ[R] Q => f.comp g) :=
+  have := IsTopologicalAddTorsor.to_isTopologicalAddGroup W Q
+  have := IsTopologicalAddTorsor.to_isTopologicalAddGroup W₂ Q₂
+  continuous_rng
+    (fun _ => (map_continuous f).comp (continuous_eval_const _))
+    ((f.contLinear.postcomp V).continuous.comp continuous_contLinear)
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean:100]: can you bundle them up as `ContinuousAffineMap`s?

**Comment by gasparattila** [comment]
-awaiting-author

File: Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean [hunk 2]
```diff
@@ -81,6 +82,88 @@ instance : RegularSpace (P →ᴬ[R] Q) :=
...
+  linear := g.precompL W₂
+  map_vadd' _ _ := rfl
+  cont := continuous_precomp g
+
+@[simp]
+theorem precompA_apply (g : P →ᴬ[R] Q) (f : Q →ᴬ[R] Q₂) : g.precompA Q₂ f = f.comp g :=
+  rfl
+
+@[simp]
+theorem precompA_contLinear (g : P →ᴬ[R] Q) : (g.precompA Q₂).contLinear = g.precompL W₂ :=
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean]:
```suggestion
theorem contLinear_precompA (g : P →ᴬ[R] Q) : (g.precompA Q₂).contLinear = g.precompL W₂ :=
```

Comment (gasparattila) [reply Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean]: I've made #44056, which switches to prefix naming for `contLinear` everywhere.

Comment (gasparattila) [reply Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean]: I've switched back to postfix naming for this lemma. I don't have a strong preference for prefix vs postfix naming of `contLinear`, but I think it's important to be consistent with the existing lemmas, which mostly use postfix naming.

File: Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean [hunk 3]
```diff
@@ -81,6 +82,88 @@ instance : RegularSpace (P →ᴬ[R] Q) :=
...
+section precompA
+
+variable [IsTopologicalAddGroup W₂] [ContinuousConstSMul R W₂]
+
+variable (W₂) in
+/-- Pre-composition by a fixed continuous affine map, as a continuous linear map. -/
+@[simps]
+def precompL (g : P →ᴬ[R] Q) : (Q →ᴬ[R] W₂) →L[R] (P →ᴬ[R] W₂) where
+  toFun f := f.comp g
+  map_add' _ _:= rfl
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean]:
```suggestion
  map_add' _ _ := rfl
```

File: Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean [hunk 4]
```diff
@@ -81,6 +82,88 @@ instance : RegularSpace (P →ᴬ[R] Q) :=
...
+  cont := continuous_precomp g
+
+@[simp]
+theorem precompA_apply (g : P →ᴬ[R] Q) (f : Q →ᴬ[R] Q₂) : g.precompA Q₂ f = f.comp g :=
+  rfl
+
+@[simp]
+theorem precompA_contLinear (g : P →ᴬ[R] Q) : (g.precompA Q₂).contLinear = g.precompL W₂ :=
+  rfl
+
```
Comment (themathqueen) [inline Mathlib/Topology/Algebra/ContinuousAffineMap/Topology.lean:120]: maybe add
```lean
@[simp] lemma toContinuousAffineMap_precompL (g : P →ᴬ[R] Q) :
    (g.precompL W₂).toContinuousAffineMap = g.precompA W₂ := rfl
```
